US06989443B2
Synthesis of 3,5-dipropargyloxybenzylalcohol (I)
Finely powdered K2CO3, 14 grams (0.10 moles), and Kl, 17 grams (0.10 moles) were placed in a 500 mL round flask, and 200 mL acetone was added. Under a nitrogen atmosphere, 3,5-dihydroxybenzylalcohol, 4.2 grams (0.03 moles), and propargyl chloride, 5.3 grams (0.07 moles) were then added. The resulting mixture was refluxed overnight. The results from thin layer chromatography showed no starting material (3,5-dihydroxybenzylalcohol) as well as the presence of a new compound. The solution was filtered, and the filtered solid washed with acetone. The acetone of the resulting filtrate was removed by rotary evaporation, leaving an organic residue. Dichloromethane (50 mL) was added to dissolve the organic residue, and this was washed with water (30 mL×2), and then dried over anhydrous sodium sulfate. After filtering the organic phase, the solvents were removed by rotary evaporation leaving a yellow oil, which solidified upon standing. 6.3 g of product was obtained, which corresponds to a 97% yield.

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 200 mL | CC(=O)C | C3H6O
reactant | 3,5-dihydroxybenzylalcohol | OC=1C=C(CO)C=C(C1)O | C7H8O3
reactant | propargyl chloride | C(C#C)Cl | C3H3Cl
solvent | Dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3,5-dipropargyloxybenzylalcohol | 6.3 g, 97% yield | C(C#C)OC=1C=C(CO)C=C(C1)OCC#C | C13H12O3
